US07414060B2
The Al(Me)3-catalyzed reaction of 0.53 g (1.29 mmol) of 3-tert-Butoxycarbonylamino-6-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine-2-carboxylic acid ethyl ester and 2-amino-4-methyl thiazole in accordance with the general method of Example 78, step 2 yielded 0.58 g of crude [6-Hydroxymethyl-2-(4-methyl-thiazol-2-ylcarbamoyl)-pyridin-3-yl]-carbamic acid tert-butyl ester (which also contains 2-amino-4-methyl thiazole) as a dark brown oil, MS (ISP): m/e=365.1 (M+H+). This crude material was dissolved in 4 ml of methylene chloride and 2.4 ml of trifluoroacetic acid. The solution was stirred overnight at room temperature. The pH of the solution was adjusted to 8 by addition of saturated sodium carbonate solution and extracted three times with methylene chloride. The combined organic phases were dried over magnesium sulfate and concentrated to yield 0.47 g of 3-Amino-6-hydroxymethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide as a dark brown oil (containing 2-amino-4-methyl thiazole), MS (ISP): m/e=265.3 (M+H+). The crude material was reprotected with tert-butyldimethylchlorosilane/imidazole according to the general procedure described in step 4 to yield, after extraction and purification, 88 mg (0.23 mmol, 13%) of the pure title compound as a light yellow solid, MS (ISP): m/e=379.3 (M+H+).

reactant | Al(Me)3 | [Al](C)(C)C
reactant | 3-tert-Butoxycarbonylamino-6-(tert-butyl-dimethyl-silanyloxymethyl)-pyridine-2-carboxylic acid ethyl ester | 1.29 mmol, 0.53 g | C(C)OC(=O)C1=NC(=CC=C1NC(=O)OC(C)(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H34N2O5Si
reactant | 2-amino-4-methyl thiazole | NC=1SC=C(N1)C | C4H6N2S
product | [6-Hydroxymethyl-2-(4-methyl-thiazol-2-ylcarbamoyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | 0.58 g | C(C)(C)(C)OC(NC=1C(=NC(=CC1)CO)C(NC=1SC=C(N1)C)=O)=O | C16H20N4O4S
